US04367238
Sodium hydride (65%, 1.05 g), ethyl 2-cyano-2-[2-methoxy-3-(o-tolylthio)phenyl]acetate (9.4 g), methyl iodide (7.85 g) and dimethylformamide (40 ml) were treated in a similar manner to that of Example 22-(2) to give oily ethyl 2-cyano-2-[2-methoxy-3-(o-tolylthio)phenyl]propionate (10.0 g).

reactant | Sodium hydride | 1.05 g | [H-].[Na+]
reactant | ethyl 2-cyano-2-[2-methoxy-3-(o-tolylthio)phenyl]acetate | 9.4 g | C(#N)C(C(=O)OCC)C1=C(C(=CC=C1)SC1=C(C=CC=C1)C)OC | C19H19NO3S
reactant | methyl iodide | 7.85 g | CI | CH3I
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | ethyl 2-cyano-2-[2-methoxy-3-(o-tolylthio)phenyl]propionate | 10.0 g | C(#N)C(C(=O)OCC)(C)C1=C(C(=CC=C1)SC1=C(C=CC=C1)C)OC | C20H21NO3S
